************************************************************************
* auCdl Netlist:
* 
* Library Name:  CCI
* Top Cell Name: LATCH
* View Name:     schematic
* Netlisted on:  Sep 24 02:29:32 2022
************************************************************************

.INCLUDE  /pdk/tsmc/TSMC180/180/CMOS/G/IO3.3V/pdk/T-018-CM-SP-018-K3_1_0a_bsim4.5_pdk_IC61_20100730/tsmc180_pdk/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: CCI
* Cell Name:    LATCH
* View Name:    schematic
************************************************************************

.SUBCKT LATCH CLK D GND NOTCLK Q VDD
*.PININFO CLK:I D:I NOTCLK:I Q:O GND:B VDD:B
MM21 net19 NOTCLK net024 VDD P l=180.0n w=3u m=1
MM13 Q net19 VDD VDD P l=180.0n w=3u m=1
MM20 net024 D VDD VDD P l=180.0n w=3u m=1
MM15 net027 Q VDD VDD P l=180.0n w=3u m=1
MM14 net19 CLK net027 VDD P l=180.0n w=3u m=1
MM11 net19 CLK net026 GND N l=180.0n w=1.5u m=1
MM17 Q net19 GND GND N l=180.0n w=1.5u m=1
MM16 net026 D GND GND N l=180.0n w=1.5u m=1
MM19 net19 NOTCLK net025 GND N l=180.0n w=1.5u m=1
MM18 net025 Q GND GND N l=180.0n w=1.5u m=1
.ENDS

