************************************************************************
* auCdl Netlist:
* 
* Library Name:  CCI
* Top Cell Name: MirrorAdder
* View Name:     schematic
* Netlisted on:  Oct  2 10:21:42 2022
************************************************************************

.INCLUDE  /pdk/tsmc/TSMC180/180/CMOS/G/IO3.3V/pdk/T-018-CM-SP-018-K3_1_0a_bsim4.5_pdk_IC61_20100730/tsmc180_pdk/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: CCI
* Cell Name:    MirrorAdder
* View Name:    schematic
************************************************************************

.SUBCKT MirrorAdder A B Cin Cout GND S VDD
*.PININFO A:I B:I Cin:I Cout:O S:O GND:B VDD:B
MM27 Cout net014 GND GND N l=180.0n w=1u m=1
MM25 S net41 GND GND N l=180.0n w=1u m=1
MM23 net64 B GND GND N l=180.0n w=2.85u m=1
MM22 net65 A net64 GND N l=180.0n w=2.85u m=1
MM21 net41 Cin net65 GND N l=180.0n w=2.85u m=1
MM17 net25 B GND GND N l=180.0n w=2.85u m=1
MM16 net25 Cin GND GND N l=180.0n w=2.85u m=1
MM15 net25 A GND GND N l=180.0n w=2.85u m=1
MM14 net41 net014 net25 GND N l=180.0n w=2.85u m=1
MM1 net10 A GND GND N l=180.0n w=2.85u m=1
MM7 net014 Cin net10 GND N l=180.0n w=2.85u m=1
MM6 net10 B GND GND N l=180.0n w=2.85u m=1
MM9 net66 B GND GND N l=180.0n w=2.85u m=1
MM8 net014 A net66 GND N l=180.0n w=2.85u m=1
MM26 Cout net014 VDD VDD P l=180.0n w=1.5u m=1
MM24 S net41 VDD VDD P l=180.0n w=1.5u m=1
MM20 net41 Cin net62 VDD P l=180.0n w=4.5u m=1
MM19 net63 A VDD VDD P l=180.0n w=4.5u m=1
MM18 net62 B net63 VDD P l=180.0n w=4.5u m=1
MM13 net41 net014 net69 VDD P l=180.0n w=4.5u m=1
MM12 net69 Cin VDD VDD P l=180.0n w=4.5u m=1
MM11 net69 B VDD VDD P l=180.0n w=4.5u m=1
MM4 net014 A net67 VDD P l=180.0n w=4.5u m=1
MM10 net69 A VDD VDD P l=180.0n w=4.5u m=1
MM0 net70 A VDD VDD P l=180.0n w=4.5u m=1
MM3 net67 B VDD VDD P l=180.0n w=4.5u m=1
MM2 net70 B VDD VDD P l=180.0n w=4.5u m=1
MM5 net014 Cin net70 VDD P l=180.0n w=4.5u m=1
.ENDS

